US07723347B2
6-Chloro-N4-{4-[(3-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)amino]-3-fluorophenyl}pyrimidine-2,4-diamine
57 mg (210 mmol) of N1-(3-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-2-fluorobenzene-1,4-diamine and 47 mg (290 μmol) of 4,6-dichloropyrimidine-2-amine are suspended in 5 ml of water. 290 μl (290 mmol) of 1 M hydrochloric acid are added, and the mixture is stirred at 100° C. overnight. Using 1N aqueous sodium hydroxide solution, the suspension is then adjusted to pH 10, resulting in the precipitation of crystals. The solid is filtered off and washed with water. The crude product is purified by column chromatography on silica gel (mobile phase: dichloromethane/methanol (7M ammonia) 100:1 to 10:1) and subsequent preparative RP-HPLC.

reactant | N1-(3-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)-2-fluorobenzene-1,4-diamine | 210 mmol, 57 mg | ClC1=CNC2=NC=CC(=C21)NC2=C(C=C(C=C2)N)F | C13H10ClFN4
reactant | 4,6-dichloropyrimidine-2-amine | 290 μmol, 47 mg | ClC1=NC(=NC(=C1)Cl)N | C4H3Cl2N3
reactant | hydrochloric acid | 290 mmol, 1 M, 290 μl | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
product | 6-Chloro-N4-{4-[(3-chloro-1H-pyrrolo[2,3-b]pyridin-4-yl)amino]-3-fluorophenyl}pyrimidine-2,4-diamine | ClC1=CC(=NC(=N1)N)NC1=CC(=C(C=C1)NC1=C2C(=NC=C1)NC=C2Cl)F | C17H12Cl2FN7
